US06232310B1
3-Phenyl-4H-1,4-benzothiazine-2-carbonitrile 1-oxide
A mixture of 3-phenyl-4H-1,4-benzothiazine-2-carbonitrile (0.10 g) and 3-chloroperbenzoic acid (0.17 g, purity 80%) in dichloromethane (8 ml) was stirred at 0° C. for 30 min. The mixture was filtered and the filter cake was washed with dichloromethane and dried to give the title compound as pale crystals. Yield 66 mg; mp 182-184° C.; 1H-nmr(DMSO) δ (ppm): 12.31 (br, 1H), 8.09-7.99 (m, 1H), 7.83-7.60 (m, 7H), 7.60-7.48 (m, 1H); IR(KBr) ν (cm−1): 3211, 3161, 2985, 2935, 2850, 2193 (C≡N ), 1603, 1548, 1502, 1463, 1429, 1004, 771, 703; MS m/e (rel. intensity): 250 (86%; M+−16), 249 (87%), 218 (39%), 211 (100%), 190 (11%), 146 (23%), 108 (43%), 69 (43%).

reactant | 3-phenyl-4H-1,4-benzothiazine-2-carbonitrile | 0.10 g | C1(=CC=CC=C1)C1=C(SC2=C(N1)C=CC=C2)C#N | C15H10N2S
reactant | 3-chloroperbenzoic acid | 0.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 3-Phenyl-4H-1,4-benzothiazine-2-carbonitrile 1-oxide | C1(=CC=CC=C1)C1=C(S(C2=C(N1)C=CC=C2)=O)C#N | C15H10N2OS
